US07435731B2
2,4-Difluorophenol (510 mg, 3.922 mmol) was dissolved in 5 mL dry DMF, and sodium hydride (152 mg of 60% suspension in mineral oil, 3.791 mmol) was added. The reaction mixture was stirred for 25 minutes, and then (R)-1-[6-Methanesulfonyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol (525 mg, 1.307 mmol) was added. The reaction mixture was heated to 100° C. for four hours with stirring, then was stirred for 16 hours at room temperature. The reaction mixture was quenched by addition to water, and was partitioned between water and ethyl acetate. The organic layer was separated, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was purified by flash chromatography (8% MeOH in methylene chloride) to give 258 mg of (R)-1-[6-(2,4-Difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol. Mass Spec. M+H=452.

reactant | 2,4-Difluorophenol | 3.922 mmol, 510 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | sodium hydride | 3.791 mmol, 152 mg | [H-].[Na+]
reactant | (R)-1-[6-Methanesulfonyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 1.307 mmol, 525 mg | CS(=O)(=O)C1=NC(=C2C(=N1)N(N=C2)COCC[Si](C)(C)C)NC[C@@H](C)O | C15H27N5O4SSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-1-[6-(2,4-Difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 258 mg | FC1=C(OC2=NC(=C3C(=N2)N(N=C3)COCC[Si](C)(C)C)NC[C@@H](C)O)C=CC(=C1)F | C20H27F2N5O3Si
